US06462198B1
Diphenylacetyl-carbamic acid cyclopropylmethyl ester
The title compound, white solid, m.p.=108° C., MS: m/e=309.4 (M+H+) was prepared in accordance with the general method of example 1 from diphenylacetyl isocyanate and cyclopropyl-methanol.

reactant | diphenylacetyl isocyanate | C1(=CC=CC=C1)C(C(=O)N=C=O)C1=CC=CC=C1 | C15H11NO2
reactant | cyclopropyl-methanol | C1(CC1)CO | C4H8O
product | Diphenylacetyl-carbamic acid cyclopropylmethyl ester | C1(CC1)COC(NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C19H19NO3
